US08471005B2
(7-{3-[(2-Methanesulfonyl-ethylamino)-methyl]-phenyl}-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine
Into a microwave vial, [3-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzyl]-(2-methanesulfonyl-ethyl)-amine (0.100 g, 0.000255 mol), 4-(4-Methyl-piperazin-1-yl)-phenylamine (0.214 g, 0.00112 mol), 1-Methoxy-2-propanol (0.613 mL) and N,N-Diisopropylethylamine (0.133 mL, 0.000764 mol) were added. The reaction was microwaved on 300 watts, 170° C. for 50 minutes. The solvent was removed under vacuum. The desired product was isolated via ISCO column chromatography with DCM and methanol as eluant (0 to 15% methanol). The collected fractions afforded (7-{3-[(2-Methanesulfonyl-ethylamino)-methyl]-phenyl}-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine a yellow solid (41 mg, 31%). LCMS (E/I+) 520.16 (M+H). NMR 1H (DMSO-d6)-9.76 (ns, 1H), 9.37 (s, 1H), 9.20 (bs, 2H), 8.99 (s, 1H), 8.42 (d, 2H, J=7.45 Hz), 8.16 (s, 1H), 7.61-7.72 (m, 3H), 7.51 (d, 1H, J=7.45 Hz), 7.15 (d, 1H, J=4.47 Hz), 6.91-7.04 (m, 4H), 4.31 (s, 2H), 3.76 (d, 2H, J=12.66 Hz), 3.34-3.63 (m, 6H0, 3.08-3.24 (m, 5H), 2.82-3.00 (m, 5H).

reactant | [3-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzyl]-(2-methanesulfonyl-ethyl)-amine | 0.000255 mol, 0.100 g | CS(=O)C1=NN2C(C=N1)=CC=C2C=2C=C(CNCCS(=O)(=O)C)C=CC2 | C17H20N4O3S2
reactant | 4-(4-Methyl-piperazin-1-yl)-phenylamine | 0.00112 mol, 0.214 g | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | 1-Methoxy-2-propanol | 0.613 mL | COCC(C)O | C4H10O2
reactant | N,N-Diisopropylethylamine | 0.000764 mol, 0.133 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | (7-{3-[(2-Methanesulfonyl-ethylamino)-methyl]-phenyl}-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | CS(=O)(=O)CCNCC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C27H33N7O2S
